US07115598B2
N-[1-(4-Chloro-3-fluoro-2-nitro-phenyl)-ethyl]-2,2,2-trifluoro-acetamide (286 mg, 0.909 mmol) was dissolved at room temperature in THF (10 mL). Then, a solution of lithium hydroxide monohydrate (46 mg, 1.09 mmol) in water (2 mL) was added. The reaction was followed by TLC, using ethyl acetate as solvent. After 2 h., more lithium hydroxide monohydrate (46 mg, 1.09 mmol) in water (2 mL) was added. The reaction was stirred at room temperature for three days. Then, the reaction was extracted with ethyl acetate-sodium hydroxide (1N) and brine. The organic layer was collected, dried with sodium sulfate, filtered and concentrated under vacuum to produce a crude, which it was chromatograph over silica gel to yield 148 mg of 1-(4-chloro-3-fluoro-2-nitro-phenyl)-ethylamine. 1H NMR (400 MHz, Cl3CD) δ 7.90 (d, J=6.43 Hz, 1H), 7.64 (d, J=10.07 Hz, 1H), 4.62 (m, 1H), 1.58 (br s, 2H), 1.33 (d, J=6.43, 3H).

reactant | N-[1-(4-Chloro-3-fluoro-2-nitro-phenyl)-ethyl]-2,2,2-trifluoro-acetamide | 0.909 mmol, 286 mg | ClC1=C(C(=C(C=C1)C(C)NC(C(F)(F)F)=O)[N+](=O)[O-])F | C10H7ClF4N2O3
reactant | lithium hydroxide monohydrate | 1.09 mmol, 46 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 1.09 mmol, 46 mg | O.[OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
product | 1-(4-chloro-3-fluoro-2-nitro-phenyl)-ethylamine | 148 mg | ClC1=C(C(=C(C=C1)C(C)N)[N+](=O)[O-])F | C8H8ClFN2O2
